US08563735B2
3-cyano-4-fluorobenzenesulfonamide
Concentrated ammonium hydroxide (28% solution in water, 3.17 mL) was cooled to 0° C. and 3-cyano-4-fluorobenzene-1-sulfonyl chloride (1.00 g) was added. The solution was mixed at 0° C. for four minutes. 4M HCl (10 mL) was added slowly and the solution was extracted with ethyl acetate. The extract was dried on brine and anhydrous sodium sulfate and the solvent removed under vacuum.

reactant | ammonium hydroxide | 3.17 mL | [OH-].[NH4+]
reactant | 3-cyano-4-fluorobenzene-1-sulfonyl chloride | 1.00 g | C(#N)C=1C=C(C=CC1F)S(=O)(=O)Cl | C7H3ClFNO2S
solvent | HCl | 4M, 10 mL | Cl | ClH
product | 3-cyano-4-fluorobenzenesulfonamide | C(#N)C=1C=C(C=CC1F)S(=O)(=O)N | C7H5FN2O2S
